US07560558B2
Compound 115: 4-[(6-Methyl-3-pyridyl)oxy]-6,7-dimethoxyquinoline
4-Chloro-6,7-dimethoxyquinoline (229 mg), 3-hydroxy-2-iodo-6-methylpyridine (486 mg), and 4-dimethylaminopyridine (390 mg) were suspended in o-dichlorobenzene (5 ml), and the suspension was stirred at 140° C. overnight. The reaction solution was cooled to room temperature and was then purified by column chromatography using acetone-chloroform to give the title compound (186 mg, yield 61%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 229 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 3-hydroxy-2-iodo-6-methylpyridine | 486 mg | OC=1C(=NC(=CC1)C)I | C6H6INO
catalyst | 4-dimethylaminopyridine | 390 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 5 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-[(6-Methyl-3-pyridyl)oxy]-6,7-dimethoxyquinoline | 186 mg, yield 61% | CC1=CC=C(C=N1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C17H16N2O3
